US05273986
(E)-2-[3-[3-[2-[4-(Cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-3-oxopropyl]benzoic acid
A solution composed of 0.457 g of (E)-2-[3-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-3-oxopropyl]benzoic acid ethyl ester, 25 ml of tetrahydropyran, 8 ml of methanol, 8 ml of water and 0.282 g of lithium hydroxide monohydrate was allowed to stand at room temperature for 20 hr. The solvents were removed by rotary evaporation and the residual materials were taken up in 30 ml of water. Addition of excess acetic acid caused the precipitation of 0.42 g of (E)-2-[3-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-3-oxopropyl]benzoic acid; m.p. 238°-239° C.

reactant | (E)-2-[3-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-3-oxopropyl]benzoic acid ethyl ester | 0.457 g | C(C)OC(C1=C(C=CC=C1)CCC(=O)NC1=CC(=CC=C1)\C=C\C=1SC=C(N1)C1CCC1)=O | C27H28N2O3S
reactant | tetrahydropyran | 25 ml | O1CCCCC1 | C5H10O
reactant | methanol | 8 ml | CO | CH4O
reactant | lithium hydroxide monohydrate | 0.282 g | O.[OH-].[Li+]
solvent | water | 8 ml | O | H2O
product | (E)-2-[3-[3-[2-[4-(Cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-3-oxopropyl]benzoic acid | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CCC1=C(C(=O)O)C=CC=C1)=O | C25H24N2O3S
